US07989462B2
(2-Hydrazinyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methylamine
To a solution of (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methylamine (100 mg, 0.33 mmol) in 2 ml of 1,4-dioxane was added 0.4 ml of hydrazine. The reaction mixture was stirred at room temperature overnight. After evaporating the solvent, the residue was diluted with EtOAc (20 ml), washed with saturated NaHCO3 aq., brine, dried over Na2SO4, filtered and concentrated by vacuum, yielding 20 mg (21%) of yellow solids. 1H NMR (CDCl3): 7.52-7.49 (m, 1H), 7.44-7.39 (m, 1H), 7.12-7.08 (m, 2H), 6.93-6.88 (m, 3H), 6.77-6.71 (m, 1H), 6.01 (brs, 1H), 4.11 (brs, 2H), 3.83 (s, 3H), 3.50 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methylamine | 0.33 mmol, 100 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | hydrazine | 0.4 ml | NN | H4N2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (2-Hydrazinyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methylamine | 20 mg, 21% | N(N)C1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H17N5O
